// Generated for: spectre
// Generated on: Mar  7 22:38:41 2026
// Design library name: my_sram
// Design cell name: Sim_sram_6t_cell
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdd=1.1
include "/vol/eecs391/FreePDK45/ncsu_basekit/models/hspice/hspice_nom.include"

// Library name: EECS391
// Cell name: inverter
// View name: schematic
subckt inverter gnd in out vdd
    M0 (out in gnd gnd) NMOS_VTG w=400n l=50n as=4.2e-14 ad=4.2e-14 \
        ps=610.0n pd=610.0n ld=105n ls=105n m=1
    M1 (out in vdd vdd) PMOS_VTG w=600n l=50n as=6.3e-14 ad=6.3e-14 \
        ps=810.0n pd=810.0n ld=105n ls=105n m=1
ends inverter
// End of subcircuit definition.

// Library name: my_sram
// Cell name: sram_6t_cell
// View name: schematic
subckt sram_6t_cell BL BLB GND VDD WL
    M5 (net18 net14 GND GND) NMOS_VTG w=240.0n l=50n as=2.52e-14 \
        ad=2.52e-14 ps=450.0n pd=450.0n ld=105n ls=105n m=1
    M4 (net14 net14 GND GND) NMOS_VTG w=240.0n l=50n as=2.52e-14 \
        ad=2.52e-14 ps=450.0n pd=450.0n ld=105n ls=105n m=1
    M3 (BLB WL net18 GND) NMOS_VTG w=135.00n l=50n as=1.4175e-14 \
        ad=1.4175e-14 ps=345.00n pd=345.00n ld=105n ls=105n m=1
    M2 (net14 WL BL GND) NMOS_VTG w=135.00n l=50n as=1.4175e-14 \
        ad=1.4175e-14 ps=345.00n pd=345.00n ld=105n ls=105n m=1
    M7 (net18 net14 VDD VDD) PMOS_VTG w=90n l=50n as=9.45e-15 ad=9.45e-15 \
        ps=300n pd=300n ld=105n ls=105n m=1
    M6 (net14 net14 VDD VDD) PMOS_VTG w=90n l=50n as=9.45e-15 ad=9.45e-15 \
        ps=300n pd=300n ld=105n ls=105n m=1
ends sram_6t_cell
// End of subcircuit definition.

// Library name: my_sram
// Cell name: Sim_sram_6t_cell
// View name: schematic
I21 (gnd net010 in_BLB vdd) inverter
I20 (gnd in_BL net021 vdd) inverter
I19 (gnd in_BL net022 vdd) inverter
I18 (gnd in_BL net023 vdd) inverter
I15 (gnd net011 in_BL vdd) inverter
I13 (gnd in_BLB net09 vdd) inverter
I7 (gnd net2 in_WL vdd) inverter
I17 (gnd in_BL net024 vdd) inverter
I9 (gnd in_BLB net08 vdd) inverter
I10 (gnd in_BLB net07 vdd) inverter
I11 (gnd in_BLB net06 vdd) inverter
V6 (net010 gnd) vsource dc=0 type=pulse val0=1.1 val1=0 period=20n delay=0 \
        rise=20p fall=20p width=10n
V4 (net011 gnd) vsource dc=0 type=pulse val0=0 val1=1.1V period=20n \
        delay=0 rise=20p fall=20p width=10n
V_A (net2 gnd) vsource dc=0 type=pulse val0=0 val1=1.1V period=10n \
        delay=1n rise=20p fall=20p width=5n
V2 (gnd 0) vsource dc=0 type=dc
V1 (vdd 0) vsource dc=vdd type=dc
I16 (in_BL in_BLB gnd vdd in_WL) sram_6t_cell
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=60n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save in_WL in_BL in_BLB 
saveOptions options save=allpub
